US07906549B2
methyl 2-methoxy-4-propylbenzoate
To a dimethyl sulfoxide (20 mL)-methanol (15 mL) mixed solution of the compound (5.00 g) prepared in Example 42, triethylamine (4.70 mL), 1,3-bis(diphenylphosphino)propane (DPPP, 346 mg), and palladium acetate (94 mg) were added, followed by vigorously stirring at an internal temperature of about 70° C. under a carbon monooxide atmosphere for about 2.5 hours. The reaction solution was cooled, and diluted with methyl tert-butyl ether (20 mL), and added with a 3.5% aqueous sodium bicarbonate solution (67.5 mL), thiocyanuric acid (201 mg), and activated carbon (500 mg), followed by vigorously stirring at room temperature for about 30 minutes. The precipitate was filtered. The organic layer was successively washed with water and brine, dried, and concentrated, to thereby obtain the title compound (3.10 g) having the following physical properties.

reactant | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
reactant | 1,3-bis(diphenylphosphino)propane | 346 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | sodium bicarbonate | 67.5 mL | C([O-])(O)=O.[Na+]
reactant | thiocyanuric acid | 201 mg | N1C(=S)NC(=O)NC1=O | C3H3N3O2S
reactant | methyl tert-butyl ether | 20 mL | C(C)(C)(C)OC | C5H12O
catalyst | palladium acetate | 94 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 4.70 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 mL | CO | CH4O
product | methyl 2-methoxy-4-propylbenzoate | 3.10 g | COC1=C(C(=O)OC)C=CC(=C1)CCC | C12H16O3
